US06677349B1
Methanesulfonyl chloride (1.27 g, 11.1 mmol) was slowly added to a solution of 1-(2-aminoethyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine (3.0 g, 10.6 mmol) in pyridine (60 mL). The reaction was maintained at ambient temperature overnight and then it was concentrated to dryness. The residue was combined with warm dichloroethane and water and then filtered to provide an off white solid. The dichloroethane layer was concentrated to provide an off white solid. The two solids were combined and then recrystallized from N,N-dimethylformamide to provide 1.1 g of N-[2-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]methanesulfonamide as a white solid, m.p. 210.0-211.0° C. Analysis: Calculated for C17H23N5O2S: %C, 56.49; %H, 6.41; %N, 19.37; Found: %C, 56.45; %H, 6.49; %N, 19.50.

reactant | Methanesulfonyl chloride | 11.1 mmol, 1.27 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(2-aminoethyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine | 10.6 mmol, 3.0 g | NCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C16H21N5
solvent | pyridine | 60 mL | N1=CC=CC=C1 | C5H5N
product | N-[2-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]methanesulfonamide | 1.1 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCNS(=O)(=O)C)CCCC | C17H23N5O2S
